US06498166B1
v) 3-Bromo-6-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine
6-Chloro2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine (2.48 g, 10.05 mmol) was dissolved in anhydrous DMF (160 ml) and treated with NBS (1.967 g) for 1 h. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was separated, washed with water, dried and concentrated to give the title compound as a brown solid (2.827 g, 86%). (CDCl3) δ 7.19 (3H, t, J 9 Hz, H-3′+H-5); 7.48 (1H, d, J 9 Hz, H4); 8.05(2H, m, H-2′); 8.49 (1H, br s, H-7); Tlc SiO2 cyclohexane:ethyl acetate (3:1) Rf 0.74 detection uv254.

reactant | 6-Chloro2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine | 10.05 mmol, 2.48 g | ClC=1C=CC=2N(C1)N=C(C2)C2=CC=C(C=C2)F | C13H8ClFN2
reactant | NBS | 1.967 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
product | 3-Bromo-6-chloro-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine | 2.827 g, 86% | BrC=1C(=NN2C1C=CC(=C2)Cl)C2=CC=C(C=C2)F | C13H7BrClFN2
